* C:\Users\Nick\Documents\GitHub\Micro-DMM\LTSpiceModelling.asc
V1 N011 0 5
V2 N002 N001 SINE(0 100 1)
R1 N001 N007 500K
R2 N002 N008 500K
R3 N008 N007 22K
I1 N004 0 -.02
R4 N006 0 520
R5 N004 0 330
R6 N004 N006 22K
M1 N004 N005 N006 N006 IRFZ44N
Q1 N005 N010 0 0 2N3904
V3 N003 0 12
V4 N009 0 0
R7 N010 N009 22k
R8 N003 N005 22k
XU1 N007 0 ADR5041
R9 N011 N007 5K
D1 N008 N011 1N5817
D2 0 N008 1N5817
XU2 N004 0 ADR5045
R10 0 N008 20Meg
R11 0 N007 20Meg
.model D D
.lib C:\Users\Nick\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Nick\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Nick\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
* <To ADC
* < Resistor Being \nMeasured
* This simulates one ADC Input
* These Diodes protect the ADC from overvoltage
.lib ADR5041.sub
.lib ADR5045.sub
.backanno
.end
