* C:\Users\Nick\Documents\GitHub\Micro-DMM\LTSpice\DifferentialBuffer.asc
XU1 N004 N002 +5 -5 N002 OP191
V1 +5 0 5
V2 -5 0 -5
R2 N004 N003 100K
R3 0 N002 1Meg
C1 0 +5 0.1µF
C2 0 +5 4.7µF
C3 0 -5 0.1µF
C4 0 -5 4.7µF
V3 N003 N009 SINE(0 4 1000) Rser=0
XU2 N010 N007 +5 -5 N007 OP191
R1 N010 N009 100K
R4 0 N007 1Meg
C5 0 +5 0.1µF
C6 0 +5 4.7µF
C7 0 -5 0.1µF
C8 0 -5 4.7µF
R5 N003 N005 5.6Meg
R6 N008 N009 5.6Meg
R7 N002 N002 15K
R8 N001 0 7.5K
R9 N007 N007 15K
R10 N006 0 7.5K
R11 N005 0 5.6Meg
R12 0 N008 5.6Meg
.tran 0 0.1 0.09
* ADC Input
* ADC Input
.lib ADI.lib
.backanno
.end
