* C:\Users\Nick\Documents\GitHub\Micro-DMM\LTSpice\Draft2.asc
XU1 0 N002 N001 N005 N004 AD823
V1 N001 0 12
V2 0 N005 12
V3 N003 0 SINE(1.8 1.8 10)
R1 0 N004 10Meg
R3 N004 N002 2K
R2 N002 N003 1K
.tran 1
.lib ADI.lib
.backanno
.end
